data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,605,"CC1CCCC(C2=CC=CC=C2)[C:1](C)=[CH:2]1.[H:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7604,"C=C(CCC1(C2=CC(OC)=C(OC)C=C2)CC(=O)N(C)C1[OH+]S(=O)(=O)[CH2-:1])C[Si](C)(C)C.CC[N+:2](CC)(CC)[H:3].[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2266,"C1CC[C:1](=[O:2])CC1.CC(C)(C)[OH+][K].CCCCCCC#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3,"C1=CC=C([CH2:1][Br:2])C=C1.CCC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3493,"CCOC1(C(F)(F)C(F)(F)F)C(C2CCCCC2)[O:1]1.[CH3][Al:2]([CH3])[CH3]|(1, 2)"
train,pmechdb_split_0,0,7428,"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(=O)O.O=C1N(C2=CC=CC=C2)[C:2](=[O:3])[CH:4]=[CH:5]1|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,7191,"CC(C)(C)[O-:1].COC1=CC=C(C=N[N:2](S(=O)(=O)C2=CC=C(C)C=C2)[H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,60,"CC(C)(NO)[OH:1].O[NH2+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7569,"C[CH:1](C)[Br:2].N#C[CH-:3]C#N|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1512,"C1=CC=C([P+:1](SC2=NC3=C(C=CC=C3)S2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC(C1=CC=CC=C1)[OH:2].[S-]C1=NC2=C(C=CC=C2)S1|(2, 1)"
train,pmechdb_split_0,0,3724,"CC(C)[C:1]1([H:2])C2=C(C=C[CH+:3]1)C=C(C#N)C=C2.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,1847,"CC(C)[C:1]1([H:2])C2=C(C=CC(S(=O)(=O)O)=C2)C=C[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,2716,"CCOCC.CO.COC1=C2C(=CC=C1)C(OC)=C(CC(CCOCC1=CC=CC=C1)[O+:1]=[CH2:2])[CH:3]=[C:4]2[O:5]C.CO[B-](F)(F)F|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6800,"CC1(C(Cl)Cl)C=C[C:1]([C:2](C)(C)[H:3])=[CH:4][C:5]1=[O:6].O=C([O][Na])[O-:7].[Na+]|(7, 3);((3, 2), 1);((1, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,2497,"C1=CC=CC=C1.C1=CC=[N:1]C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=C[CH:2]([H:3])[C:4](C)=[N+:5]1C1=CC2=C(C=C1)C(I)=C(C1=CC=CC=C1)O2.O|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2406,"CC(=O)[O-].COC1=C[C:1]2=[C:2](C=C1C)[O:3]C(C(=O)[O-])[C:4]2(C)[O:5]C(C)=O.[Na+]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,10046,"CC1=[O+:1][CH:2]2C(CCC[O:3]2)O1.CO.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5156,"C[C:1](C)=[CH:2]C[C:3]12C(=O)CCCC1[OH+:4]2.O=S(=O)([O-])C(F)(F)F|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1245,"CC(=O)CC(C)(C)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5969,"O[CH:1]=[OH+:2].[I-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8280,"[Cl][Mg:1][CH3:2].[Cl][Mg][P+:3](Cl)(Cl)Cl|((1, 2), 3)"
train,pmechdb_split_0,0,2424,"CC1(C)C2CCC1(CS(=O)(=O)[O-])C(=O)C2.CC1=C2CCCC(=O)C2(C)CCC1=[O+:1][H:2].NC(CC1=CC=CC=C1)C(=O)O.O.[NH3+]C(CC1=CC=CC=C1)C(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7765,"C1=CC=[N:1]C=C1.COCOC1CC2C(C[N+:2](C)=[CH:3][C:4]2(C(=O)C(F)(F)F)[H:5])C12COC(=O)N2|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,9522,"CS(=O)(=O)C1=CC=C(C2=C[N-]C([N+]#N)([OH+:1][H:2])C=N2)C=C1.O=S(=O)([O-])[O-:3].[Na+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1234,"C(C1=CC=CC=C1)#[C:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9909,"CO[C:1]1=[CH:2]C=CC([N+](=O)[O-])=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7662,"CC(=O)[O:1][H:2].COC1=CC2=C(C=C1)C=C(C1([O-:3])CC=C(C3=CC=CC=C3)[NH2+]1)C=C2.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6502,"CN1CCC[S:1]C1.C[S:2][S+:3](C)C.F[B-](F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5118,"CC[N-:1]C.[AlH3:2]|(1, 2)"
train,pmechdb_split_0,0,3966,"C1=CC2=C(C=C1)OC(=[O:1])CC2.C[Si:2](C)(C)OS(=O)(=O)C(F)(F)F.C[Si](C)(C)OCCO[Si](C)(C)C|(1, 2)"
train,pmechdb_split_0,0,5564,"CC1=C[CH+:1][C:2](C(C)C)([H:3])O1.[F-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,5159,"CSCCC(N[C:1]([O:2][C:3](C)(C)C)=[OH+:4])C(=O)NC1CCCC1.O=C([O-])C(F)(F)F.[Cl-]|((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,636,"C[S+:1](C)SC1=CC=CC=C1.N#[C-:2]|(2, 1)"
train,pmechdb_split_0,0,2473,"C1=CC=[NH+]C=C1.CCC(=O)NC(CC1CCCCC1)C(=O)[O-:1].CCC(=O)O[C:2](CC)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,737,"CC1CCCCC1[O-:1].OB1C2CCCC1CCC2.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4981,"CN1C(=O)C2=CC=CN2C=C1CCCN1C(=O)C2=C(C=CC=C2)C1([O-])[NH+:1](N)[H:2].N[NH2:3].O.[Cl-].[K+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7116,"C[C:1](=[CH2:2])[O-:3].[CH2:4]=[CH:5][C:6]#[N:7]|(3, 1);((1, 2), 4);((4, 5), 6);((6, 7), 7)"
train,pmechdb_split_0,0,2752,"CC1=C(N(C)S(C)(=O)=O)C(C)=C(N(C)S(C)(=O)=O)[N+:1]([Si-:2](C)(C)(C)OS(=O)(=O)C(F)(F)F)=C1C|((2, 1), 1)"
train,pmechdb_split_0,0,10277,"C[N+:1](C)=[S:2](C)[O-]|((2, 1), 1)"
train,pmechdb_split_0,0,6450,"CC[S+](O[C:1](C(F)(F)F)([O-:2])[O:3]C(=O)C(F)(F)F)C1=CC=CC=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1070,"O=S(=O)(O)C1=CC=CC([NH2+:1][H:2])=C1.O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3273,"COC(=O)C1CC[C:1](=[O+:2]CC[OH:3])CC1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5411,"CC(OC1=CC=CC=C1)[C:1](=[O:2])[NH2:3].CC[O+:4](C)[CH2:5]C.COC|(3, 1);((1, 2), 5);((5, 4), 4)"
